US07977351B2
5-Fluoro-3-(7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (453 mg, 3.0 mmol.) in THF (3 mL) is placed under an Argon atmosphere and cooled in an ice bath. A solution of lithium bis(trimethylsilyl)amide (6.0 mL of a 1M in THF, 6.0 mmol, 3 eq.) is added slowly at 0° C. and the resulting solution is stirred for 10 min. The ice-bath is removed and a solution of 7H-furo[3,4-b]pyridin-5-one (270 mg, 2.0 mmol) in THF (6 mL) is added dropwise to the reaction mixture. The resulting solution is stirred at room temperature for 4 h and poured into a 10% aqueous HCl solution (50 mL). After 10 min at room temperature, the reaction is heated to ˜90° C. for 45 min. and then let stir at room temperature for 36 h. The solid which forms is collected by filtration and washed sequentially with MeOH, EtOAc, Et2O (3×5 mL) and dried under vacuum to give the title compound (200 mg, 37%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 3.0 mmol, 453 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 7H-furo[3,4-b]pyridin-5-one | 2.0 mmol, 270 mg | N1=C2C(=CC=C1)C(OC2)=O | C7H5NO2
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 200 mg, 37% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC=CC=C21 | C15H9FN2O2
